US07799913B2
Dimethyl hydroxyterephthalate (3.00 g, 14.3 mmol) was cooled to 5° C. and mixed with 7 mL fuming nitric acid for 40 min. The reaction mixture was poured onto ice and extracted with ethyl acetate. The organic layer was washed with pH 7 phosphate buffer, saturated NaCl, and dried over anhydrous Na2SO4. The solvent was removed under reduced pressure to yield crude 3.0 g dimethyl-2-hydroxy-4-nitroterephthalate. IR: 1739, 1688, 1549, 1442, 1338 and 1254 cm−1

reactant | Dimethyl hydroxyterephthalate | 14.3 mmol, 3.00 g | OC1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C10H10O5
reactant | nitric acid | 7 mL | [N+](=O)(O)[O-] | HNO3
product | dimethyl-2-hydroxy-4-nitroterephthalate | 3.0 g | COC(C1=C(CC(C(=O)OC)(C=C1)[N+](=O)[O-])O)=O | C10H11NO7
